US09447090B2
To a suspension of 149 mg of methyl (1S,2R)-1-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylindane-2-carboxylate in 6 ml of dioxane was added 6 ml of 3 M hydrochloric acid, followed by stirring at 80° C. for 4 hours. After leaving to be cooled, the solvent was evaporated under reduced pressure, and then to the obtained residue were added a saturated aqueous sodium hydrogen carbonate solution, an aqueous citric acid solution, and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. To the obtained residue was added diisopropyl ether, and the insoluble material was collected by filtration and dried to obtain 126 mg of (1S,2R)-1-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylindane-2-carboxylic acid.

reactant | methyl (1S,2R)-1-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylindane-2-carboxylate | 149 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@H]2[C@@H](CC1=CC(=CC=C21)C)C(=O)OC | C28H33N3O4
reactant | hydrochloric acid | 3 M, 6 ml | Cl | ClH
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | (1S,2R)-1-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylindane-2-carboxylic acid | 126 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@H]2[C@@H](CC1=CC(=CC=C21)C)C(=O)O | C27H31N3O4
